US06124323
4-(4-Methybenzyl)-1-(2-(4-methylphenoxy)ethyl)piperidine
From a mixture of 4-(4-methylbenzyl)piperidine (1.14 g, 6.02 mmol), 2-(4-methylphenoxy)ethyl bromide (630 mg, 3.01 mmol) and KI (90 mg) in toluene (20 mL) was obtained 800 mg (85%) of the title compound as a yellow oil, 1H NMR (CDCl3): 1.26-1.38 (m, 2H), 1.45-1.53 (m, 1H), 1.61-1.66 (m, 2H), 1.99-2.07 (m, 2H), 2.277 (s, 3H), 2.317 (s, 3H), 2.494 (d, 2H, J=7), 2.761 (t, 2H, J=6), 2.95-2.99 (m, 2H), 4.067 (t, 2H, J=6), 6.792 (d, 2H, J=78), (d, 2H, J=8), 7.01-7.10 (m, 6H). The hydrocloride, mp 170-1° C.

reactant | 4-(4-methylbenzyl)piperidine | 6.02 mmol, 1.14 g | CC1=CC=C(CC2CCNCC2)C=C1 | C13H19N
reactant | 2-(4-methylphenoxy)ethyl bromide | 3.01 mmol, 630 mg | CC1=CC=C(OCCBr)C=C1 | C9H11BrO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Methybenzyl)-1-(2-(4-methylphenoxy)ethyl)piperidine | 800 mg, 85% | CC1=CC=C(CC2CCN(CC2)CCOC2=CC=C(C=C2)C)C=C1 | C22H29NO
